US05346684
A method is provided for recovering an anhydrous hydrogen fluoride product from uranium hexafluoride gas by initially reacting the uranium hexafluoride in a primary reactor with steam to produce a uranyl fluoride intermediate and a gaseous mixture of hydrogen fluoride and water. The uranyl fluoride intermediate is fed to a secondary reactor and reacted with water to produce a triuranium octoxide product for disposal, and a gaseous mixture of water, hydrogen fluoride and oxygen. The two mixtures from the primary and secondary reactors are combined and subsequently separated in a distillation column to obtain an anhydrous hydrogen fluoride product stream and an aqueous azeotropic recycle stream containing water and hydrogen fluoride which is vaporized and returned to the primary reactor as the steam feed.

reactant | hydrogen fluoride | F | FH
reactant | uranyl fluoride | [F-].[U+2](=O)=O.[F-]
solvent | water | O | H2O
product | triuranium octoxide | [O-2].[O-2].[O-2].[O-2].[O-2].[O-2].[O-2].[O-2].[U+6].[U+6].[U+6] | InChI=1S/8O.3U/q8*-2;3*+6
